US05808062
4-[4-Hydroxy-5-[(2-isopropylphenyl)thio]-6-oxo-6H-pyran-2-yl]-phenoxy acetic acid:
To a tetrahydrofuran (10 ml) solution of 4-[4-Hydroxy-5-[(2-isopropylphenyl)thio]-6-oxo-6H-pyran-2-yl]phenoxy acetic acid ethyl ester (0.319 g. 0.75 mmol) was added 1N sodium hydroxide (1.80 mL, 1.81 mmol). The reaction was stirred for 1.5 h, and then water (10 ml) was added followed by acidification with conc. hydrochloric acid to pH 2. The aqueous layer was then extracted 2× with ethyl acetate (100 ml). the combined organic extracts were then washed with saturated sodium chloride and dried over anhydrous magnesium sulfate. After evaporation of the solvents in vacuo, the crude product was purified by column chromatography (silica gel--230 to 400 mesh) using 94/5/1 methylene chloride/methanol/acetic acid as the eluent. m.p. 217° C.; (dec.); 1H NMR (400 MHz, DMSO-d6) δ 1.25 (d, 6H), 3.42 (m, 1H), 4.79 (s, 2H), 6.75 (s, 1H), 6.90 (d, 1H), 7.06 (m, 4H), 7.26 (d, 1H), 7.79 (d, 2H).

reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | 4-[4-Hydroxy-5-[(2-isopropylphenyl)thio]-6-oxo-6H-pyran-2-yl]phenoxy acetic acid ethyl ester | 0.75 mmol, 0.319 g | C(C)OC(COC1=CC=C(C=C1)C=1OC(C(=C(C1)O)SC1=C(C=CC=C1)C(C)C)=O)=O | C24H24O6S
reactant | sodium hydroxide | 1.81 mmol, 1N, 1.80 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 10 ml | O | H2O
product | 4-[4-Hydroxy-5-[(2-isopropylphenyl)thio]-6-oxo-6H-pyran-2-yl]-phenoxy acetic acid | OC=1C=C(OC(C1SC1=C(C=CC=C1)C(C)C)=O)C1=CC=C(OCC(=O)O)C=C1 | C22H20O6S
